US09145392B2
6′-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-N2,N2-dimethyl-[5,5]bipyrimidinyl-2,4′-diamine (“31”)
The title compound was prepared in an analogous manner as 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using (2-(dimethylamino)pyrimidin-5-yl)boronic acid instead of 4-fluorophenylboronic acid. LC-MS: (M+1=542, obsd.=542).

reactant | 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | FC1=CC=C(C=C1)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C26H23F5N6
reactant | (2-(dimethylamino)pyrimidin-5-yl)boronic acid | CN(C1=NC=C(C=N1)B(O)O)C | C6H10BN3O2
product | 6′-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-N2,N2-dimethyl-[5,5]bipyrimidinyl-2,4′-diamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C(C(=NC=N1)N)C=1C=NC(=NC1)N(C)C)C(F)(F)F | C26H27F4N9
